Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Thera-M
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding, hypoxia
Reason for MICU transfer:  hypoxia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o G1P0 with PMH significant for hypothyrodism, now POD2 
from laparaotomy and cornual resection of right ectopic 
pregnancy, post-op course comlicated by hypoxia and 
intra-abdominal bleeding. 

The patient was diagnosed with abnormally-rising beta HCG of 
3240 on ___, which rose under monitoring to 8009. She received 
methotrexate on ___ with a quant of 5567 and had decrease in her 
hcg to 400 on the day of admission on ___. She had been seen in 
the office by Dr. ___ (her OBGYN) earlier in the day and 
without abdominal pain. On the way home, she experienced sudden 
onset abdominal pain and lightheadedness and went to the 
emergency room.

She had a CT scan, which showed a probably cornual ectopic and 
extensive blood in the abdomen, so the patient was emergently 
moved to the OR. She was found to have 1L of blood in the 
abdomen. She also received 2 units of blood during the operation 
and 3L fluid. She was extubated after surgery.

Yesterday, had tachypneia and became hypoxemic. Was placed on 
NRB and desatted to 80's while lying flat. Reports decreased 
work of breathing today but still O2 dependent. She is now s/p 5 
units of blood total since admission. Her Hgb trend has been 
11.9 on admission ___ 9.7 on ___ am ->8.7 on ___ pm -> 
received 2 units with repeat check of ___ on ___ am. She had 
another unit with improvement in Hct to 29 prior to arrival to 
___. Has been coughing up phlegm. Had been febrile. She was 
started on Levaquin and Flagyl. She received CTA showed diffuse 
atelectasis but it was a suboptimal study. Could not rule out 
micro PE. 

The patient states that she is subjectively feeling more 
comfortable today but still having shortness of breath. Had ABG 
___ on NRB. T 100.5, BP 100/60, HR on 100-110s prior to 
transfer. Was on morphine PCA at ___ but not having much 
pain. Having scant vaginal bleeding. Has UCx, BCx pending. 

OB/GYN here made aware and original plan was for ___ guided 
embolization here. 
 
Past Medical History:
Hypothyrodism

Past Surgical History: 
breast augmentation surgery with implants in ___

 
Social History:
___
Family History:
Per ___ records,
Father - pancreatitis, hypertension
Mother - hypertension, rheumatoid arthritis, Rayneud's
Brother - epilepsy
Sister - thyroid problems
No family history of GYN cancer
 
Physical Exam:
ADMISSION EXAM
===============
Vitals- T: 99.2 BP: 108/79 P: 107 R: ___ O2: 100% NRB
General: Alert, oriented, NRB in place, speaking in full 
sentences
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation, , no wheezes, rales, rhonchi
CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, mildly tender to palpation, non-distended, bowel 
sounds hypoactive, no rebound tenderness or guarding, no 
organomegaly, bikini transverse incision with steri-strips in 
place, some dry blood but otherwise clean
GU: foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE EXAM
================
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:08PM BLOOD WBC-9.2 RBC-3.57* Hgb-10.7* Hct-31.1* 
MCV-87 MCH-29.9 MCHC-34.3 RDW-13.4 Plt ___
___ 06:08PM BLOOD ___ PTT-26.7 ___
___ 06:08PM BLOOD Glucose-101* UreaN-4* Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-25 AnGap-15
___ 06:08PM BLOOD Calcium-8.4 Phos-2.3* Mg-2.0

INTERIM LABS
============
___ 06:00PM BLOOD ___ pO2-23* pCO2-55* pH-7.36 
calTCO2-32* Base XS-2
___ 06:55PM BLOOD Type-ART pO2-163* pCO2-44 pH-7.42 
calTCO2-30 Base XS-4

DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-8.1 RBC-3.19* Hgb-9.7* Hct-27.9* 
MCV-88 MCH-30.5 MCHC-34.8 RDW-13.8 Plt ___
___ 02:27PM BLOOD Glucose-111* UreaN-6 Creat-0.8 Na-138 
K-3.6 Cl-101 HCO3-27 AnGap-14

MICROBIOLOGY
============

IMAGING/STUDIES
===============
CT abd//pelvis w/ contrast ___ OSH:
1. Findings consistent with ruptured ectopic pregnancy. This 
could be cornual ectopic pregnancy. Evidence of active 
extravasation in right hemipelvis.

CTA chest ___ OSH:
1. Evaluation limited by patient's diffuse atelectasis in lower 
lobes. No central or lobar PEs identified. Distal segmental PEs 
cannot be completely excluded.
2. Diffuse atelectasis with air bronchograms through lower 
lobes. Underlying infectious process cannot be excluded. Areas 
of consolidation/atelectasis also seen within RUL.

CT abd/pelvis w/o ___ OSH: 
1. Blood identified within abdomen and pelvis. Overall volume of 
blood smaller today than yesterday. 
2. Significant bibasilar airspace disease which could be 
atelectasis/pneumonia

CXR PORTABLE ___
Vascular congestion has improved. Persistent low lung volumes 
with bibasilar opacities larger on the left side. Opacities are 
a combination of effusions and atelectasis. Superimposed 
infection cannot be excluded. There is no 
pneumothorax. Cardiac size cannot be evaluated. 

 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ y/o G1P0 with PMH significant for hypothyrodism, now POD2 
from laparotomy and cornual resection of right ectopic 
pregnancy, post-op course complicated by hypoxia and 
intra-abdominal bleeding. 

ACUTE ISSUES
============
# Hypoxic respiratory distress - Felt to be from fluid 
overload/atelectasis. Patient received aggressive volume 
repletion at OSH.  Transfusion related lung injury was also in 
the diagnosis.  She was not felt to have a pneumonia, and CXRs 
showed effusions and atelectasis.  She initially required 
oxygen, but this was weaned off after one dose of lasix.  She 
was discharged with an incentive spirometer and given one 
additional dose of lasix to take at home.  She was advised to 
f/u with her PCP next week for check of lung exam, symptoms, and 
repeat of chemistries.  SHe had a cough but it was not 
productive.  Afebrile, WBC normal. She spent one day in the ICU 
and was transferred to the medical floor.  She felt quite well 
on discharge - without PND, DOE and was ambulating well.  

# Ruptured ectopic pregnancy - seen by GYN in house.   Had 
cornual wedge resection of ruptured pregnancy with large intraop 
blood loss.  Surgical scar healing well, and she was advised to 
f/u with GYN providers as an outpatient. 

# Acute anemia - due to ruptured ectopic pregnancy/intra op 
losses.  Patient with obvious hematoma on lower abdomen 
secondary to intra-op bleeding.  Hct stable in high ___.  

CHRONIC ISSUES
==============
# Hypothyroidism - continued synthroid

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 200 mcg PO QHS 

 
Discharge Medications:
1. Levothyroxine Sodium 200 mcg PO QHS 
2. Guaifenesin ER 600 mg PO Q12HPRN coughémucous 
3. Furosemide 10 mg PO ONCE Duration: 1 Dose 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth once Disp 
#*1 Tablet Refills:*0
4. Potassium Chloride 40 mEq PO ONCE Duration: 1 Dose 
Hold for K > 
RX *potassium chloride [K-Tab] 20 mEq 2 tablet(s) by mouth once 
Disp #*2 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Shortness of breath due to effusions/atelectasis
2.  Ruptured ectopic pregnancy
3.  Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred from ___ for shortness of breath 
following your surgery for your ectopic pregnancy.  We did not 
find any blood clots as a cause of your shortness of breath.  We 
also do not believe that you have a pneumonia.  Rather, we think 
that your shortness of breath is from extra fluid and 
atelectasis (parts of lung are not ventilated due to not taking 
deep breaths).  I will give you one extra lasix tablet and some 
potassium to take at home.  Please see your PCP next week to get 
your lab work checked and your lungs checked to make sure this 
has improved.  You can continue to take the guiafenisin to help 
with cough.
 
Followup Instructions:
___